US07713979B2
cis-1-(4-hydroxy-cyclohexyl)-pyrrolidin-2-one
Dissolve cis-4-nitro-benzoic acid 4-(2-oxo-pyrrolidin-1-yl)-cyclohexyl ester (Preparation 15) (87.9 g; 264 mmol) in methanol (1.35 L) and water (150 mL) and add potassium carbonate (109.5 g; 800 mmol). Stir at room temperature overnight to give a white precipitate. Evaporate to dryness. Azeotrope with ethanol (×2). Stir in tetrahydrofuran (1 L) for 1 hour then filter. Evaporate the filtrate to an oil and crystallize from diethyl ether (100 mL) to afford 40 g (83%) of the title compound.

reactant | cis-4-nitro-benzoic acid 4-(2-oxo-pyrrolidin-1-yl)-cyclohexyl ester | 264 mmol, 87.9 g | O=C1N(CCC1)[C@H]1CC[C@H](CC1)OC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C17H20N2O5
reactant | potassium carbonate | 800 mmol, 109.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 1.35 L | CO | CH4O
solvent | water | 150 mL | O | H2O
product | cis-1-(4-hydroxy-cyclohexyl)-pyrrolidin-2-one | 40 g, 83% | O[C@H]1CC[C@H](CC1)N1C(CCC1)=O | C10H17NO2
